US05196593
2,3-Difluoro-5-(trifluoromethyl)benzonitrile (60.03 g, 0.29 moles) is added to a solution of 17.5 g (0.43 moles) of sodium hydroxide in 158 ml of water. The mixture is heated to 97° C. during 1 hour and then heating is continued for an additional 2 hours. The mixture is acidified and the solid acid filtered off and air dried to yield 2,3-difluoro-5-(trifluoromethyl)benzoic acid, m.p. 94°-96° C.

reactant | 2,3-Difluoro-5-(trifluoromethyl)benzonitrile | 0.29 moles, 60.03 g | FC1=C(C#N)C=C(C=C1F)C(F)(F)F | C8H2F5N
reactant | sodium hydroxide | 0.43 moles, 17.5 g | [OH-].[Na+]
reactant | water | 158 ml | O | H2O
product | 2,3-difluoro-5-(trifluoromethyl)benzoic acid | FC1=C(C(=O)O)C=C(C=C1F)C(F)(F)F | C8H3F5O2
